US04914092
(a) 2-{N-[2-Oxo-2-(perhydro-1-azepinyl]ethyl]methylamino}ethanol
A mixture of 4.8 g (27 mmol) of 1-(2-chloroacetyl)perhydroazepine, dissolved in 40 ml of 2-butanone, 3.6 g (48 mmol) of 2-(methylamino)ethanol and 6.6 g (48 mmol) of potassium carbonate is heated to 70° C. for 5 h.

reactant | 1-(2-chloroacetyl)perhydroazepine | 27 mmol, 4.8 g | ClCC(=O)N1CCCCCC1 | C8H14ClNO
reactant | 2-(methylamino)ethanol | 48 mmol, 3.6 g | CNCCO | C3H9NO
reactant | potassium carbonate | 48 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 40 ml | CC(CC)=O | C4H8O
product | 2-{N-[2-Oxo-2-(perhydro-1-azepinyl]ethyl]methylamino}ethanol | O=C(CN(CCO)C)N1CCCCCC1 | C11H22N2O2
